US07566784B2
C) tert-Butyl 5-bromo-4-(ethoxycarbonyl)picolinate
To a solution of tert-butyl 4-amino-5-bromopicolinate (546 mg, 2 mmol) in CH2Cl2 (5 mL) and pyridine (1 mL) at 0° C., was added ethyl chloroformate (271 mg, 2.5 mmol). The mixture was stirred at rt for 2 h, diluted with dichloromethane, washed with 5% citric acid, and sat. K2HPO4 aq. solution. The organic layer was dried over MgSO4 and the product was purified by flash column chromatography (SiO2, eluting with 20% EtOAc/CH2Cl2) to give a white solid (570 mg, 83%). LC-MS: m/z 345 (M+).

reactant | tert-butyl 4-amino-5-bromopicolinate | 2 mmol, 546 mg | NC1=CC(=NC=C1Br)C(=O)OC(C)(C)C | C10H13BrN2O2
reactant | ethyl chloroformate | 2.5 mmol, 271 mg | ClC(=O)OCC | C3H5ClO2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | ClCCl | CH2Cl2
product | tert-Butyl 5-bromo-4-(ethoxycarbonyl)picolinate | 570 mg, 83% | BrC=1C(=CC(=NC1)C(=O)OC(C)(C)C)C(=O)OCC | C13H16BrNO4
